### PR TITLE
Rational real numbers

### PR DESCRIPTION
**Pull request by malarbol**
This PR introduces the cannonical map from `ℚ` to `ℝ` as well as a characterisation of its image in terms of Dedekind cuts.

To do so, I had to introduce a few properties on (strict) inequalities on the rational numbers, integer fractions and integers.

- modified:   elementary-number-theory/addition-integers.lagda.md
  - the sum of a nonnegative and a positive integer is positive

- new file:   elementary-number-theory/cross-mul-diff-integer-fractions.lagda.md
  - define the cross-multiplication difference of two integer fractions
  - computing properties (useful to work with comparison of integer fractions)

- modified:   elementary-number-theory/inequality-integer-fractions.lagda.md
  - generic properties of the (strict) order on integer fractions
  (asymmetricity, transitivity, etc.)
  - helper functions to construct inequal fractions

- modified:   elementary-number-theory/inequality-integers.lagda.md
  - fix the definition of `le-ℤ`
  - generic properties of `le-ℤ`
  - preservation/reflection properties of `le-ℤ` w.r.t `add-ℤ`

- modified:   elementary-number-theory/inequality-rational-numbers.lagda.md
  - generic properties of the (strict) order on rational numbers
  - compatibility between the orderings on integer fractions and
  rational numbers
  - no lower/upper bounds, decidability, trichotomy principle
  - density and of strict inequality on rational numbers

- modified:   elementary-number-theory/integers.lagda.md
  - decide positivity of integers

- new file:   elementary-number-theory/mediant-integer-fractions.lagda.md
  - define the mediant of two integer fractions
  - the mediant preserves cross-multiplication difference

- modified:   elementary-number-theory/multiplication-integers.lagda.md
  - multiplication by a positive integer preserves strict ordering

- modified:   elementary-number-theory/rational-numbers.lagda.md
  - accessor functions for rational numbers
  - define the mediant of two rational numbers

- modified:   real-numbers/dedekind-real-numbers.lagda.md
  - contructor and accessor functions for real numbers
  - properties of Dedekind cuts
  - real numbers are determined by their lower/upper cuts

- new file:   real-numbers/rational-real-numbers.lagda.md
  - define the Dedekind cut given by a rational number
  - define the subtype of rational real numbers
  - `ℚ` embeds in `ℝ` as the subtype of rational real numbers

### CODE REVIEW

**Comment by fredrik-bakke** [comment]
Hey, @malarbol! Welcome back, and thank you for submitting the pull request. As you can see, our conventions have changed quite a bit since your last contribution. 😅 You will probably get a review from us by this time tomorrow, so just hang tight in the meanwhile.

**Comment by malarbol** [comment]
Hi @fredrik-bakke! Thank you for considering it 😊! I hope it's ok to submit a PR like this without warning. if it's not in the guidelines / conventions of the library, I understand.

**Comment by fredrik-bakke** [comment]
No no, any submission is great! It was only a light-hearted remark :)

File: src/elementary-number-theory/cross-mul-diff-integer-fractions.lagda.md [hunk 1]
```diff
@@ -0,0 +1,194 @@
+# The cross-multiplication difference of two integer fractions
```
Comment (EgbertRijke) [inline src/elementary-number-theory/cross-mul-diff-integer-fractions.lagda.md:1]: We usually don't abbreviate file names like that, because such abbreviated names don't convey their meaning so well to people who don't already know the meaning of the abbreviation.

`cross-multiplication-difference-integer-fractions.lagda.md`

would be a better file name.

File: src/elementary-number-theory/cross-mul-diff-integer-fractions.lagda.md [hunk 2]
```diff
@@ -0,0 +1,194 @@
...
+```
+
+</details>
+
+## Idea
+
+The cross-multiplication difference of two fractions `a/b` and `p/q` is the
+difference of the products of the numerator of each fraction with the
+denominator of the other : `p * b - a * q`.
+
```
Comment (EgbertRijke) [inline src/elementary-number-theory/cross-mul-diff-integer-fractions.lagda.md:30]:
```suggestion
The cross-multiplication difference of two fractions `a/b` and `p/q` is the
difference of the products of the numerator of each fraction with the
denominator of the other : `p * b - a * q`.

```

File: src/elementary-number-theory/cross-mul-diff-integer-fractions.lagda.md [hunk 3]
```diff
@@ -0,0 +1,194 @@
...
+open import foundation.propositions
+```
+
+</details>
+
+## Idea
+
+The cross-multiplication difference of two fractions `a/b` and `p/q` is the
+difference of the products of the numerator of each fraction with the
+denominator of the other : `p * b - a * q`.
```
Comment (EgbertRijke) [inline src/elementary-number-theory/cross-mul-diff-integer-fractions.lagda.md:29]:
```suggestion
The {{#cocnept "cross-multiplication difference" Agda=cross-mul-diff-fraction-ℤ}} of two [integer fractions](elementary-number-theory.integer-fractions.md) `a/b` and `c/d` is the
[difference](elementary-number-theory.difference-integers.md) of the [products](elementary-number-theory.multiplication-integers.md) of the numerator of each fraction with the
denominator of the other : `c * b - a * d`.
```

File: src/elementary-number-theory/cross-mul-diff-integer-fractions.lagda.md [hunk 4]
```diff
@@ -0,0 +1,194 @@
...
+    ( numerator-fraction-ℤ x *ℤ denominator-fraction-ℤ y)
+```
+
+Swapping the fractions changes the sign of the cross-multiplication difference.
+
+```agda
+neg-cross-mul-diff-fraction-ℤ : (x y : fraction-ℤ)
+  → Id
+    ( neg-ℤ (cross-mul-diff-fraction-ℤ x y))
+    ( cross-mul-diff-fraction-ℤ y x)
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/cross-mul-diff-integer-fractions.lagda.md:49]: The  conventions are that:
- if the whole type signature does not fit on the same line, it is started on the next line, and
- binary operators go on the end of the previous line (except for in reasoning syntax)

```suggestion
neg-cross-mul-diff-fraction-ℤ :
  (x y : fraction-ℤ) →
  Id
    ( neg-ℤ (cross-mul-diff-fraction-ℤ x y))
    ( cross-mul-diff-fraction-ℤ y x)
```

File: src/elementary-number-theory/cross-mul-diff-integer-fractions.lagda.md [hunk 5]
```diff
@@ -0,0 +1,194 @@
...
+
+`y * (m * b - a * n) = b * (m * y - x * n) + n * (x * b - a * y)`
+
+```agda
+lemma-add-cross-mul-diff-fraction-ℤ : (p q r : fraction-ℤ)
+  → Id
+    ( add-ℤ
+      ( denominator-fraction-ℤ p *ℤ cross-mul-diff-fraction-ℤ q r)
+      ( denominator-fraction-ℤ r *ℤ cross-mul-diff-fraction-ℤ p q))
+    ( denominator-fraction-ℤ q *ℤ cross-mul-diff-fraction-ℤ p r)
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/cross-mul-diff-integer-fractions.lagda.md:88]:
```suggestion
lemma-add-cross-mul-diff-fraction-ℤ :
  (p q r : fraction-ℤ) →
  Id
    ( add-ℤ
      ( denominator-fraction-ℤ p *ℤ cross-mul-diff-fraction-ℤ q r)
      ( denominator-fraction-ℤ r *ℤ cross-mul-diff-fraction-ℤ p q))
    ( denominator-fraction-ℤ q *ℤ cross-mul-diff-fraction-ℤ p r)
```

File: src/elementary-number-theory/cross-mul-diff-integer-fractions.lagda.md [hunk 6]
```diff
@@ -0,0 +1,194 @@
...
+  lemma-interchange-mul-ℤ a b c =
+    inv (associative-mul-ℤ a b c)
+    ∙ ap (mul-ℤ' c) (commutative-mul-ℤ a b)
+    ∙ commutative-mul-ℤ (b *ℤ a) c
+
+lemma-left-sim-cross-mul-diff-fraction-ℤ : (a a' b : fraction-ℤ)
+  → sim-fraction-ℤ a a'
+  → Id
+    ( denominator-fraction-ℤ a *ℤ cross-mul-diff-fraction-ℤ a' b)
+    ( denominator-fraction-ℤ a' *ℤ cross-mul-diff-fraction-ℤ a b)
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/cross-mul-diff-integer-fractions.lagda.md:145]:
```suggestion
lemma-left-sim-cross-mul-diff-fraction-ℤ :
  (a a' b : fraction-ℤ) →
  sim-fraction-ℤ a a' →
  Id
    ( denominator-fraction-ℤ a *ℤ cross-mul-diff-fraction-ℤ a' b)
    ( denominator-fraction-ℤ a' *ℤ cross-mul-diff-fraction-ℤ a b)
```

File: src/elementary-number-theory/cross-mul-diff-integer-fractions.lagda.md [hunk 7]
```diff
@@ -0,0 +1,194 @@
...
+  where
+  H' : sim-fraction-ℤ a' a
+  H' = symmetric-sim-fraction-ℤ a a' H
+
+lemma-right-sim-cross-mul-diff-fraction-ℤ : (a b b' : fraction-ℤ)
+  → sim-fraction-ℤ b b'
+  → Id
+    ( denominator-fraction-ℤ b *ℤ cross-mul-diff-fraction-ℤ a b')
+    ( denominator-fraction-ℤ b' *ℤ cross-mul-diff-fraction-ℤ a b)
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/cross-mul-diff-integer-fractions.lagda.md:174]:
```suggestion
lemma-right-sim-cross-mul-diff-fraction-ℤ :
  (a b b' : fraction-ℤ) →
  sim-fraction-ℤ b b' →
  Id
    ( denominator-fraction-ℤ b *ℤ cross-mul-diff-fraction-ℤ a b')
    ( denominator-fraction-ℤ b' *ℤ cross-mul-diff-fraction-ℤ a b)
```

File: src/elementary-number-theory/integers.lagda.md [hunk 8]
```diff
@@ -426,6 +426,29 @@ is-zero-is-nonnegative-neg-is-nonnegative-ℤ (inr (inl star)) nonneg nonpos =
...
+### Properties of positive integers
+
+```agda
+decide-is-positive-ℤ : {x : ℤ} → (is-positive-ℤ x) + is-nonnegative-ℤ (neg-ℤ x)
+decide-is-positive-ℤ {inl x} = inr star
+decide-is-positive-ℤ {inr (inl x)} = inr star
+decide-is-positive-ℤ {inr (inr x)} = inl star
+
+decide-is-positive-is-nonzero-ℤ : (x : ℤ) → (x ≠ zero-ℤ) →
+  (is-positive-ℤ x) + is-positive-ℤ (neg-ℤ x)
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/integers.lagda.md:438]:
```suggestion
decide-is-positive-is-nonzero-ℤ :
  (x : ℤ) → (x ≠ zero-ℤ) →
  (is-positive-ℤ x) + is-positive-ℤ (neg-ℤ x)
```

File: src/elementary-number-theory/integers.lagda.md [hunk 9]
```diff
@@ -426,6 +426,29 @@ is-zero-is-nonnegative-neg-is-nonnegative-ℤ (inr (inl star)) nonneg nonpos =
...
+decide-is-positive-is-nonzero-ℤ (inl x) H = inr star
+decide-is-positive-is-nonzero-ℤ (inr (inl x)) H = ex-falso (H refl)
+decide-is-positive-is-nonzero-ℤ (inr (inr x)) H = inl star
+
+empty-is-positive-is-nonnegative-neg-ℤ : (x : ℤ) →
+  is-positive-ℤ x →
+  is-nonnegative-ℤ (neg-ℤ x) →
+  empty
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/integers.lagda.md:446]:
```suggestion
empty-is-positive-is-nonnegative-neg-ℤ :
  (x : ℤ) →
  is-positive-ℤ x →
  is-nonnegative-ℤ (neg-ℤ x) →
  empty
```

File: src/elementary-number-theory/mediant-integer-fractions.lagda.md [hunk 10]
```diff
@@ -0,0 +1,82 @@
...
+
+## Properties of the mediant fraction
+
+The mediant preserves cross-multiplication difference
+
+```agda
+cross-mul-diff-left-mediant-fraction-ℤ : (x y : fraction-ℤ) →
+  Id
+    ( cross-mul-diff-fraction-ℤ x y)
+    ( cross-mul-diff-fraction-ℤ x ( mediant-fraction-ℤ x y))
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/mediant-integer-fractions.lagda.md:45]:
```suggestion
cross-mul-diff-left-mediant-fraction-ℤ :
  (x y : fraction-ℤ) →
  Id
    ( cross-mul-diff-fraction-ℤ x y)
    ( cross-mul-diff-fraction-ℤ x ( mediant-fraction-ℤ x y))
```

File: src/real-numbers/rational-real-numbers.lagda.md [hunk 11]
```diff
@@ -0,0 +1,247 @@
...
+
+```agda
+is-rational-real-rational : (p : ℚ) → is-rational-ℝ (real-rational p) p
+is-rational-real-rational p =
+  pair
+    ( is-irreflexive-le-ℚ p)
+    ( is-irreflexive-le-ℚ p)
+
+eq-real-rational-is-rational-ℝ : (x : ℝ lzero) (q : ℚ) (H : is-rational-ℝ x q) →
+  real-rational q ＝ x
```
Comment (fredrik-bakke) [inline src/real-numbers/rational-real-numbers.lagda.md:128]:
```suggestion
eq-real-rational-is-rational-ℝ :
  (x : ℝ lzero) (q : ℚ) (H : is-rational-ℝ x q) →
  real-rational q ＝ x
```

File: src/real-numbers/rational-real-numbers.lagda.md [hunk 12]
```diff
@@ -0,0 +1,247 @@
...
+            ( λ I H' → ex-falso ( pr1 H ( le-lower-cut-ℝ x q r I H')))))
+```
+
+Being a rational is a property
+
+```agda
+all-eq-is-rational-ℝ : {l : Level} (x : ℝ l) (p q : ℚ) →
+  is-rational-ℝ x p →
+  is-rational-ℝ x q →
+  p ＝ q
```
Comment (fredrik-bakke) [inline src/real-numbers/rational-real-numbers.lagda.md:155]:
```suggestion
all-eq-is-rational-ℝ :
  {l : Level} (x : ℝ l) (p q : ℚ) →
  is-rational-ℝ x p →
  is-rational-ℝ x q →
  p ＝ q
```

File: src/real-numbers/rational-real-numbers.lagda.md [hunk 13]
```diff
@@ -0,0 +1,247 @@
...
+
+  is-rational-rational-ℝ : is-rational-ℝ real-rational-ℝ rational-rational-ℝ
+  is-rational-rational-ℝ = pr2 (pr2 x)
+```
+
+The equivalence between rationals and rational reals
+
+```agda
+is-section-rational-ℝ-rational : (q : ℚ) →
+  rational-rational-ℝ (rational-ℝ-rational q) ＝ q
```
Comment (fredrik-bakke) [inline src/real-numbers/rational-real-numbers.lagda.md:222]:
```suggestion
is-section-rational-ℝ-rational :
  (q : ℚ) →
  rational-rational-ℝ (rational-ℝ-rational q) ＝ q
```

File: src/real-numbers/rational-real-numbers.lagda.md [hunk 14]
```diff
@@ -0,0 +1,247 @@
...
+is-section-rational-ℝ-rational q = refl
+
+is-retraction-rational-ℝ-rational : (x : Rational-ℝ lzero) →
+  rational-ℝ-rational (rational-rational-ℝ x) ＝ x
```
Comment (fredrik-bakke) [inline src/real-numbers/rational-real-numbers.lagda.md:226]:
```suggestion
is-retraction-rational-ℝ-rational :
  (x : Rational-ℝ lzero) →
  rational-ℝ-rational (rational-rational-ℝ x) ＝ x
```

File: src/elementary-number-theory/inequality-rational-numbers.lagda.md [hunk 15]
```diff
@@ -53,3 +68,221 @@ le-ℚ x y = type-Prop (le-ℚ-Prop x y)
...
+
+```agda
+module _
+  (x y : ℚ) (H : le-ℚ x y)
+  where
+
+  dense-le-ℚ : ∃ ℚ (λ r → le-ℚ x r × le-ℚ r y)
+  dense-le-ℚ = intro-∃
+    ( mediant-ℚ x y)
+    ( le-left-mediant-ℚ x y H , le-right-mediant-ℚ x y H)
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-rational-numbers.lagda.md:276]:
```suggestion
  dense-le-ℚ =
    intro-∃
      ( mediant-ℚ x y)
      ( le-left-mediant-ℚ x y H , le-right-mediant-ℚ x y H)
```

File: src/elementary-number-theory/inequality-rational-numbers.lagda.md [hunk 16]
```diff
@@ -53,3 +68,221 @@ le-ℚ x y = type-Prop (le-ℚ-Prop x y)
...
+  A
+trichotomy-le-ℚ x y left eq right =
+  rec-coproduct
+    right
+    ( λ I →
+      rec-coproduct
+        left
+        ( eq ∘ is-antisymmetric-leq-ℚ x y I)
+        ( decide-le-leq-ℚ x y))
+    ( decide-le-leq-ℚ y x)
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-rational-numbers.lagda.md:243]: We tend to prefer pattern-matching definitions over applying the elimination principles as this leads to more readable code.

File: src/elementary-number-theory/inequality-rational-numbers.lagda.md [hunk 17]
```diff
@@ -53,3 +68,221 @@ le-ℚ x y = type-Prop (le-ℚ-Prop x y)
...
+  map-coproduct
+    id
+    ( is-nonnegative-eq-ℤ
+      ( neg-cross-mul-diff-fraction-ℤ
+        ( fraction-ℚ x)
+        ( fraction-ℚ y)))
+    ( decide-is-positive-ℤ
+      { cross-mul-diff-fraction-ℤ
+          ( fraction-ℚ x)
+          ( fraction-ℚ y)})
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-rational-numbers.lagda.md:228]: For homogeneity, we parenthesize every argument when they are on their own line like here, even if the agda parser accepts the code without them:

```suggestion
  map-coproduct
    ( id)
    ( is-nonnegative-eq-ℤ
      ( neg-cross-mul-diff-fraction-ℤ
        ( fraction-ℚ x)
        ( fraction-ℚ y)))
    ( decide-is-positive-ℤ
      { cross-mul-diff-fraction-ℤ
        ( fraction-ℚ x)
        ( fraction-ℚ y)})
```

File: src/elementary-number-theory/inequality-rational-numbers.lagda.md [hunk 18]
```diff
@@ -53,3 +68,221 @@ le-ℚ x y = type-Prop (le-ℚ-Prop x y)
...
+  inv (in-fraction-fraction-ℚ x)
+  ∙ eq-ℚ-sim-fractions-ℤ
+    ( fraction-ℚ x)
+    ( fraction-ℚ y)
+    ( is-sim-antisymmetric-leq-fraction-ℤ
+      ( fraction-ℚ x)
+      ( fraction-ℚ y)
+      H
+      H')
+  ∙ in-fraction-fraction-ℚ y
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-rational-numbers.lagda.md:93]:
```suggestion
  ( inv (in-fraction-fraction-ℚ x)) ∙
  ( eq-ℚ-sim-fractions-ℤ
    ( fraction-ℚ x)
    ( fraction-ℚ y)
    ( is-sim-antisymmetric-leq-fraction-ℤ
      ( fraction-ℚ x)
      ( fraction-ℚ y)
      ( H)
      ( H'))) ∙
    ( in-fraction-fraction-ℚ y)
```

File: src/elementary-number-theory/inequality-integers.lagda.md [hunk 19]
```diff
@@ -109,6 +111,48 @@ is-prop-le-ℤ : (x y : ℤ) → is-prop (le-ℤ x y)
 is-prop-le-ℤ x y = is-prop-type-Prop (le-ℤ-Prop x y)
 ```
 
+## Properties of strict integer inequality
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-integers.lagda.md:114]: We usually go with simple two-level headers

```suggestion
## Properties
```

File: src/elementary-number-theory/inequality-integers.lagda.md [hunk 20]
```diff
@@ -143,6 +187,40 @@ reflects-order-add-ℤ {x} {y} {z} =
   is-nonnegative-eq-ℤ (left-translation-diff-ℤ y x z)
 ```
 
+### ℤ addition preserves/reflects strict order
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-integers.lagda.md:190]:
```suggestion
### Addition on the integers preserves and reflects the strict ordering
```

File: src/elementary-number-theory/inequality-rational-numbers.lagda.md [hunk 21]
```diff
@@ -53,3 +68,221 @@ le-ℚ x y = type-Prop (le-ℚ-Prop x y)
 is-prop-le-ℚ : (x y : ℚ) → is-prop (le-ℚ x y)
 is-prop-le-ℚ x y = is-prop-type-Prop (le-ℚ-Prop x y)
 ```
+
+## Properties of inequalities on the rationals
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-rational-numbers.lagda.md:72]:
```suggestion
## Properties
```

File: src/elementary-number-theory/inequality-rational-numbers.lagda.md [hunk 22]
```diff
@@ -53,3 +68,221 @@ le-ℚ x y = type-Prop (le-ℚ-Prop x y)
...
+
+### Inequality on rational numbers is antisymmetric
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-rational-numbers.lagda.md:74]:
```suggestion
### The inequality relation on rational numbers is antisymmetric
```

File: src/elementary-number-theory/inequality-rational-numbers.lagda.md [hunk 23]
```diff
@@ -53,3 +68,221 @@ le-ℚ x y = type-Prop (le-ℚ-Prop x y)
...
+
+```agda
+is-reflexive-leq-ℚ : (x : ℚ) → leq-ℚ x x
+is-reflexive-leq-ℚ x =
+  refl-leq-ℤ
+    ( numerator-ℚ x *ℤ denominator-ℚ x)
+
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-rational-numbers.lagda.md:81]:
````suggestion
### Inequality on rational numbers is reflexive

```agda
is-reflexive-leq-ℚ : (x : ℚ) → leq-ℚ x x
is-reflexive-leq-ℚ x =
  refl-leq-ℤ (numerator-ℚ x *ℤ denominator-ℚ x)
```

### Inequality on rational numbers is antisymmetric

```agda
````

File: src/elementary-number-theory/cross-mul-diff-integer-fractions.lagda.md [hunk 24]
```diff
@@ -0,0 +1,198 @@
...
+    sim-fraction-ℤ x y
+  sim-is-zero-coss-mul-diff-fraction-ℤ H = inv (eq-diff-ℤ H)
+```
+
+## Transitivity relations for the cross-multiplication difference
+
+Given three fractions `a/b`, `x/y` and `m/n`, the pairwise cross-multiplication
+differences satisfy a transitive-additive property:
+
+`y * (m * b - a * n) = b * (m * y - x * n) + n * (x * b - a * y)`
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/cross-mul-diff-integer-fractions.lagda.md:81]:
````suggestion
```text
  y * (m * b - a * n) = b * (m * y - x * n) + n * (x * b - a * y)
```
````

File: src/elementary-number-theory/inequality-integer-fractions.lagda.md [hunk 25]
```diff
@@ -52,3 +64,180 @@ le-fraction-ℤ x y = type-Prop (le-fraction-ℤ-Prop x y)
...
+        le-ℤ
+          ( numerator-fraction-ℤ x *ℤ k)
+          ( numerator-fraction-ℤ y *ℤ denominator-fraction-ℤ x))
+      H
+      ( preserves-strict-order-mul-positive-ℤ'
+        { numerator-fraction-ℤ x}
+        { numerator-fraction-ℤ y}
+        ( denominator-fraction-ℤ x)
+        ( is-positive-denominator-fraction-ℤ x)
+        H')
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-integer-fractions.lagda.md:230]:
```suggestion
      ( H)
      ( preserves-strict-order-mul-positive-ℤ'
        { numerator-fraction-ℤ x}
        { numerator-fraction-ℤ y}
        ( denominator-fraction-ℤ x)
        ( is-positive-denominator-fraction-ℤ x)
        ( H'))
```

**Comment by malarbol** [comment]
Hi again @fredrik-bakke  and @EgbertRijke. Thank you for your thorough review and all your comments! I'm really grateful for your consideration. 
Sorry for the messed-up indentation and all.

File: src/elementary-number-theory/inequality-integer-fractions.lagda.md [hunk 26]
```diff
@@ -52,3 +64,180 @@ le-fraction-ℤ x y = type-Prop (le-fraction-ℤ-Prop x y)
 is-prop-le-fraction-ℤ : (x y : fraction-ℤ) → is-prop (le-fraction-ℤ x y)
 is-prop-le-fraction-ℤ x y = is-prop-type-Prop (le-fraction-ℤ-Prop x y)
 ```
+
+## Properties of inequalities of integer fractions
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/elementary-number-theory/inequality-integer-fractions.lagda.md:68]: Ok ; I'll do my best and comme back to you if I have any doubt.

File: src/elementary-number-theory/inequality-rational-numbers.lagda.md (hunk 23 above)
Comment (malarbol) [reply src/elementary-number-theory/inequality-rational-numbers.lagda.md:81]: should I rename `is-reflexive-leq-ℚ` to `refl-leq-ℚ` to be more consistent with `refl-leq-ℤ` ?

File: src/elementary-number-theory/inequality-rational-numbers.lagda.md (hunk 16 above)
Comment (malarbol) [reply src/elementary-number-theory/inequality-rational-numbers.lagda.md:244]: Do you mean I should get rid of the `trichotomy-le-ℚ` function or replace the use of `rec-coproduct` with pattern-matching ?

Comment (fredrik-bakke) [reply src/elementary-number-theory/inequality-rational-numbers.lagda.md:244]: Replace `rec-coproduct` with pattern-matching

File: src/elementary-number-theory/cross-mul-diff-integer-fractions.lagda.md (hunk 1 above)
Comment (malarbol) [reply src/elementary-number-theory/cross-mul-diff-integer-fractions.lagda.md]: I actually started that way but I was worried the `module` and `import` lines would get too long.

Comment (malarbol) [reply src/elementary-number-theory/cross-mul-diff-integer-fractions.lagda.md]: I fixed the name of the module.

File: src/elementary-number-theory/inequality-rational-numbers.lagda.md (hunk 16 above)
Comment (malarbol) [reply src/elementary-number-theory/inequality-rational-numbers.lagda.md]: I rewrote it with a `with` abstraction. Is it ok?

File: src/elementary-number-theory/inequality-integer-fractions.lagda.md (hunk 26 above)
[the remark this answers is not in the document]
Comment (malarbol) [reply src/elementary-number-theory/inequality-integer-fractions.lagda.md]: I added more descriptive headers along the code. It should be better now.

File: src/elementary-number-theory/inequality-rational-numbers.lagda.md (hunk 16 above)
Comment (fredrik-bakke) [reply src/elementary-number-theory/inequality-rational-numbers.lagda.md]: Oh, I was mistaken about the code, my bad. Either recursion or `with` abstraction is fine. Sorry about that.

File: src/elementary-number-theory/integers.lagda.md [hunk 27]
```diff
@@ -426,6 +426,31 @@ is-zero-is-nonnegative-neg-is-nonnegative-ℤ (inr (inl star)) nonneg nonpos =
...
+decide-is-positive-is-nonzero-ℤ (inr (inr x)) H = inl star
+
+empty-is-positive-is-nonnegative-neg-ℤ :
+  (x : ℤ) →
+  is-positive-ℤ x →
+  is-nonnegative-ℤ (neg-ℤ x) →
+  empty
+empty-is-positive-is-nonnegative-neg-ℤ (inr (inl x)) x-is-pos _ = x-is-pos
+empty-is-positive-is-nonnegative-neg-ℤ (inr (inr x)) x-is-pos neg-x-is-nonneg =
+  neg-x-is-nonneg
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/integers.lagda.md:451]: I think your usage of `is-nonnegative-ℤ (neg-ℤ x)` here calls for the definition of

### The nonpositive integers

```agda
is-nonpositive-ℤ : ℤ → UU lzero
is-nonpositive-ℤ x = is-nonnegative-ℤ (neg-ℤ x)
```

Comment (fredrik-bakke) [inline src/elementary-number-theory/integers.lagda.md:451]:
```suggestion
not-is-nonpositive-is-positive-ℤ :
  (x : ℤ) → is-positive-ℤ x → ¬ (is-nonpositive-ℤ x)
not-is-nonpositive-is-positive-ℤ (inr (inl x)) x-is-pos _ = x-is-pos
not-is-nonpositive-is-positive-ℤ (inr (inr x)) x-is-pos neg-x-is-nonneg =
  neg-x-is-nonneg
```

File: src/elementary-number-theory/mediant-integer-fractions.lagda.md [hunk 28]
```diff
@@ -0,0 +1,83 @@
...
+
+open import foundation.dependent-pair-types
+open import foundation.identity-types
+```
+
+</details>
+
+## Idea
+
+The mediant of two fractions is the quotient of the sum of the numerators by the
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/mediant-integer-fractions.lagda.md:24]:
```suggestion
The {{#concept "mediant" Disambiguation="integer fractions" Agda=mediant-fraction-ℤ}} of two fractions is the quotient of the sum of the numerators by the
```

File: src/elementary-number-theory/mediant-integer-fractions.lagda.md [hunk 29]
```diff
@@ -0,0 +1,83 @@
...
+
+### The mediant of two fractions
+
+```agda
+mediant-fraction-ℤ : fraction-ℤ → fraction-ℤ → fraction-ℤ
+mediant-fraction-ℤ (a , b , p) (c , d , q) =
+  (a +ℤ c , b +ℤ d , is-positive-add-ℤ p q)
+```
+
+## Properties of the mediant fraction
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/mediant-integer-fractions.lagda.md:37]: The second level headers should almost always be standard single words

```suggestion
## Properties
```

**Review by fredrik-bakke — APPROVED** [review]
Here's my final review of the PR, sorry for the delay. Thank you for all the nice additions! While reviewing it, I noticed some things that need improvement in the `elementary-number-theory` module that I will try and fix after this PR is merged. For instance, concepts such as "positive integers", "strict inequality on integers" and "lower dedekind cuts" deserve their separate files, and are lacking some infrastructure that I don't expect you to fix now.

File: src/elementary-number-theory/inequality-rational-numbers.lagda.md [hunk 30]
```diff
@@ -53,3 +68,219 @@ le-ℚ x y = type-Prop (le-ℚ-Prop x y)
...
+### The strict order on the rationals is located
+
+```agda
+located-le-ℚ : (x y z : ℚ) → le-ℚ y z → le-ℚ y x + le-ℚ x z
+located-le-ℚ x y z H =
+  map-coproduct
+    ( id)
+    ( λ p → concatenate-leq-le-ℚ x y z p H)
+    ( decide-le-leq-ℚ y x)
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/elementary-number-theory/inequality-rational-numbers.lagda.md]: ok, sorry. I think it's better to just keep "locatedness" as a property.

File: src/elementary-number-theory/integers.lagda.md (hunk 27 above)
Comment (malarbol) [reply src/elementary-number-theory/integers.lagda.md]: ok. I added the definition just next to `not-is-nonpositive-is-positive-ℤ`. It feels a bit out of place but the refactoring of `elementary-number-theory` that you are planning will surely fix this (by the way, I'd be glad to help if you'd like).

Comment (fredrik-bakke) [reply src/elementary-number-theory/integers.lagda.md]: Ah, indeed, I was thinking it should go somewhere close to the introduction of `is-nonnegative-ℤ`

Comment (fredrik-bakke) [reply src/elementary-number-theory/integers.lagda.md]: If you want to help that is great! I can write up a quick issue with some observations as a starting point.

Comment (fredrik-bakke) [reply src/elementary-number-theory/integers.lagda.md]: Let me say just in case, please don't start additional refactoring in this PR as it will make the review process difficult.

Comment (fredrik-bakke) [reply src/elementary-number-theory/integers.lagda.md]: Unless you are also arguing to remove `is-nonnegative`, I think we should definitely keep `is-nonpositive`. It doesn't matter that it is equivalent to another proposition.

Comment (malarbol) [reply src/elementary-number-theory/integers.lagda.md]: > Ah, indeed, I was thinking it should go somewhere close to the introduction of is-nonnegative-ℤ

I agree, but I also thought that it might be easier for the upcoming refactoring to just have the "nonpositive" stuff next to each other and decide later where to put it.

> Let me say just in case, please don't start additional refactoring in this PR as it will make the review process difficult.

Sure, for the moment I'll just focus on this PR. We can talk about the refactoring later.

Comment (malarbol) [reply src/elementary-number-theory/integers.lagda.md]: ok, cool. I guess I just feel a bit shy about adding to many new things to the library but if it's good enough for you, it's good enough for me.

File: src/real-numbers/dedekind-real-numbers.lagda.md [hunk 31]
```diff
@@ -121,6 +192,329 @@ pr1 (ℝ-Set l) = ℝ l
...
+          ( H)))
+      ( subset-lower-cut-upper-cut-ℝ y x
+        ( pr1 ∘ has-same-elements-eq-subtype
+          ( upper-cut-ℝ x)
+          ( upper-cut-ℝ y)
+          ( H)))
+
+  eq-upper-cut-lower-cut-ℝ :
+    lower-cut-ℝ x ＝ lower-cut-ℝ y
+    → upper-cut-ℝ x ＝ upper-cut-ℝ y
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/real-numbers/dedekind-real-numbers.lagda.md]: > misplaced arrow
I'm so sorry. Thank you for your patience!

File: src/elementary-number-theory/integers.lagda.md (hunk 27 above)
Comment (fredrik-bakke) [reply src/elementary-number-theory/integers.lagda.md]: No worries! I think it is a good addition because it adds the expected symmetry in definitions. It is fine to have just this extra definition for now, but when we do the refactoring, we should also develop the infrastructure mirroring that for nonnegative integers.

File: src/real-numbers/rational-real-numbers.lagda.md [hunk 32]
```diff
@@ -0,0 +1,249 @@
...
+  rational-rational-ℝ : ℚ
+  rational-rational-ℝ = pr1 (pr2 x)
+
+  is-rational-rational-ℝ : is-rational-ℝ real-rational-ℝ rational-rational-ℝ
+  is-rational-rational-ℝ = pr2 (pr2 x)
+```
+
+## Properties
+
+### Real rationals are rationals and rational reals are real rationals
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/real-numbers/rational-real-numbers.lagda.md:178]: I understand it's a bit hard to read, I liked the symmetry though. 

> there is no such concept as a "real rational"

Well, I used this as a synonym for "the image of `real-rational`.  So the first part parses as 
"reals of the form `real-rational p` satisfy the `is-rational-ℝ` property" and the second part as "reals that satisfy the `is-rational-ℝ` property are equal to some `real-rational q`" (actually not _some_, but precisely the rational it is supposed to be).

Maybe it should be cleaner to just have to separate headers.

File: src/real-numbers/dedekind-real-numbers.lagda.md [hunk 33]
```diff
@@ -121,6 +192,329 @@ pr1 (ℝ-Set l) = ℝ l
...
+      ( λ s → le-upper-cut-ℝ s H')
+      ( λ I →
+        tr
+          ( is-in-upper-cut-ℝ x)
+          ( antisymmetric-leq-ℚ p q H I)
+          ( H'))
+      ( decide-le-leq-ℚ p q)
+```
+
+Elements of the lower/upper cut are lower/upper bounds of the upper/upper cut
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/real-numbers/dedekind-real-numbers.lagda.md:257]: The last `upper/upper` should be `upper/lower` but I guess this just illustrates that this sentence is again, hard to parse. I meant "elements of the lower cut are lower bounds of the upper cut" and "elements of the upper cut are upper bounds of the lower cut" but these are actually just the same proposition.
I'll just go with "elements of the lower cut are lower bounds of the upper cut".

File: src/real-numbers/dedekind-real-numbers.lagda.md [hunk 34]
```diff
@@ -121,6 +192,329 @@ pr1 (ℝ-Set l) = ℝ l
 pr2 (ℝ-Set l) = is-set-ℝ l
 ```
 
+## Properties of lower/upper Dedekind cuts
+
+Lower and upper Dedekind cuts are stable under `le-ℚ` and `leq-ℚ`
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/real-numbers/dedekind-real-numbers.lagda.md]: I prefer to just focus on this PR for the moment ; I can try to write something about lower and upper reals later, maybe like exercise 11.3 of the HoTT book but I'd have to think about it a bit...

[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/real-numbers/dedekind-real-numbers.lagda.md]: That would be awesome, but there is no rush! 😊

File: src/elementary-number-theory/multiplication-integers.lagda.md [hunk 35]
```diff
@@ -536,4 +536,18 @@ preserves-leq-right-mul-ℤ x y z H K =
...
+preserves-strict-order-mul-positive-ℤ' :
+  {x y : ℤ} (z : ℤ) → is-positive-ℤ z → le-ℤ x y → le-ℤ (x *ℤ z) (y *ℤ z)
+preserves-strict-order-mul-positive-ℤ' {x} {y} z H p =
+  is-positive-eq-ℤ
+    ( inv ( linear-diff-right-mul-ℤ y x z))
+    ( is-positive-mul-ℤ p H)
+
+preserves-strict-order-mul-positive-ℤ :
+  {x y : ℤ} (z : ℤ) → is-positive-ℤ z → le-ℤ x y → le-ℤ (z *ℤ x) (z *ℤ y)
+preserves-strict-order-mul-positive-ℤ {x} {y} z H p =
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/elementary-number-theory/multiplication-integers.lagda.md:549]: sorry, I'm not sure where I got the name `preserves-strict-order-mul-positive-XXX` .  Should I leave it like this and you'll rename it later when you unify the notation between `preserves-le` and `preserves-strict-order` ?

File: src/elementary-number-theory/cross-multiplication-difference-integer-fractions.lagda.md [hunk 36]
```diff
@@ -0,0 +1,219 @@
...
+</details>
+
+## Idea
+
+The
+{{#concept "cross-multiplication difference" Agda=cross-mul-diff-fraction-ℤ}} of
+two [integer fractions](elementary-number-theory.integer-fractions.md) `a/b` and
+`c/d` is the [difference](elementary-number-theory.difference-integers.md) of
+the [products](elementary-number-theory.multiplication-integers.md) of the
+numerator of each fraction with the denominator of the other : `c * b - a * d`.
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/cross-multiplication-difference-integer-fractions.lagda.md:32]:
```suggestion
numerator of each fraction with the denominator of the other: `c * b - a * d`.
```

File: src/elementary-number-theory/cross-multiplication-difference-integer-fractions.lagda.md [hunk 37]
```diff
@@ -0,0 +1,219 @@
...
+```agda
+neg-cross-mul-diff-fraction-ℤ :
+  (x y : fraction-ℤ) →
+  Id
+    ( neg-ℤ (cross-mul-diff-fraction-ℤ x y))
+    ( cross-mul-diff-fraction-ℤ y x)
+neg-cross-mul-diff-fraction-ℤ x y =
+  distributive-neg-diff-ℤ
+    ( numerator-fraction-ℤ y *ℤ denominator-fraction-ℤ x)
+    ( numerator-fraction-ℤ x *ℤ denominator-fraction-ℤ y)
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/cross-multiplication-difference-integer-fractions.lagda.md:59]: Sorry to have further questions, but wouldn't this be called skew commutativity? If so, this thing can be called `skew-commutative-cross-mul-diff-fraction-ℤ`

File: src/elementary-number-theory/inequality-integers.lagda.md [hunk 38]
```diff
@@ -109,6 +111,47 @@ is-prop-le-ℤ : (x y : ℤ) → is-prop (le-ℤ x y)
...
+
+asymmetric-le-ℤ : (x y : ℤ) → le-ℤ x y → ¬ (le-ℤ y x)
+asymmetric-le-ℤ x y p q =
+  not-is-nonpositive-is-positive-ℤ
+  ( y -ℤ x)
+  ( p)
+  ( is-nonnegative-is-positive-ℤ
+    ( is-positive-eq-ℤ
+      ( inv ( distributive-neg-diff-ℤ y x))
+      ( q)))
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-integers.lagda.md:131]:
```suggestion
  not-is-nonpositive-is-positive-ℤ
    ( y -ℤ x)
    ( p)
    ( is-nonnegative-is-positive-ℤ
      ( is-positive-eq-ℤ
        ( inv ( distributive-neg-diff-ℤ y x))
        ( q)))
```

File: src/elementary-number-theory/inequality-rational-numbers.lagda.md [hunk 39]
```diff
@@ -53,3 +70,226 @@ le-ℚ x y = type-Prop (le-ℚ-Prop x y)
...
+  ( inv (in-fraction-fraction-ℚ x)) ∙
+  ( eq-ℚ-sim-fractions-ℤ
+    ( fraction-ℚ x)
+    ( fraction-ℚ y)
+    ( is-sim-antisymmetric-leq-fraction-ℤ
+      ( fraction-ℚ x)
+      ( fraction-ℚ y)
+      ( H)
+      ( H'))) ∙
+    ( in-fraction-fraction-ℚ y)
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-rational-numbers.lagda.md:98]:
```suggestion
  ( in-fraction-fraction-ℚ y)
```

File: src/elementary-number-theory/inequality-rational-numbers.lagda.md [hunk 40]
```diff
@@ -53,3 +70,226 @@ le-ℚ x y = type-Prop (le-ℚ-Prop x y)
...
+### The strict order on the rationals is located
+
+```agda
+located-le-ℚ : (x y z : ℚ) → le-ℚ y z → (le-ℚ-Prop y x) ∨ (le-ℚ-Prop x z)
+located-le-ℚ x y z H =
+  unit-trunc-Prop
+    ( map-coproduct
+      ( id)
+      ( λ p → concatenate-leq-le-ℚ x y z p H)
+      ( decide-le-leq-ℚ y x))
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-rational-numbers.lagda.md:294]: It is better to also keep the lemma you removed. The lemma seemed useful, and it is also stronger than what replaced it. It also follows the following central [agda-unimath principle](https://unimath.github.io/agda-unimath/CODINGSTYLE.html#code-structuring-conventions):

> One critical aspect of maintaining such a large codebase lies in efficient and strategic code structuring, and continued refactoring, into small, reusable entries. In line with this approach, we aim to factor out and encapsulate even the tiniest bits of reusable logic or computation in their own definitions.


We can for instance call it `decide-located-le-ℚ`:
```suggestion
decide-located-le-ℚ : (x y z : ℚ) → le-ℚ y z → le-ℚ y x + le-ℚ x z
decide-located-le-ℚ x y z H =
  map-coproduct
    ( id)
    ( λ p → concatenate-leq-le-ℚ x y z p H)
    ( decide-le-leq-ℚ y x)

located-le-ℚ : (x y z : ℚ) → le-ℚ y z → (le-ℚ-Prop y x) ∨ (le-ℚ-Prop x z)
located-le-ℚ x y z H = unit-trunc-Prop (located-le-ℚ x y z H)
```

File: src/elementary-number-theory/mediant-integer-fractions.lagda.md [hunk 41]
```diff
@@ -0,0 +1,86 @@
...
+  ＝ (nx *ℤ dx +ℤ ny *ℤ dx) -ℤ (nx *ℤ dx +ℤ nx *ℤ dy)
+    by inv
+      ( left-translation-diff-ℤ
+        ( mul-ℤ ny dx)
+        ( mul-ℤ nx dy)
+        ( mul-ℤ nx dx))
+  ＝ (nx +ℤ ny) *ℤ dx -ℤ nx *ℤ (dx +ℤ dy)
+    by ap-diff-ℤ
+      ( inv ( right-distributive-mul-add-ℤ nx ny dx))
+      ( inv ( left-distributive-mul-add-ℤ nx dx dy))
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/mediant-integer-fractions.lagda.md:61]:
```suggestion
      ( inv (right-distributive-mul-add-ℤ nx ny dx))
      ( inv (left-distributive-mul-add-ℤ nx dx dy))
```

File: src/elementary-number-theory/mediant-integer-fractions.lagda.md [hunk 42]
```diff
@@ -0,0 +1,86 @@
...
+  ＝ (ny *ℤ dx +ℤ ny *ℤ dy) -ℤ (nx *ℤ dy +ℤ ny *ℤ dy)
+    by inv
+      ( right-translation-diff-ℤ
+        ( mul-ℤ ny dx)
+        ( mul-ℤ nx dy)
+        ( mul-ℤ ny dy))
+  ＝ ny *ℤ (dx +ℤ dy) -ℤ (nx +ℤ ny) *ℤ dy
+    by ap-diff-ℤ
+      ( inv ( left-distributive-mul-add-ℤ ny dx dy))
+      ( inv ( right-distributive-mul-add-ℤ nx ny dy))
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/mediant-integer-fractions.lagda.md:80]:
```suggestion
      ( inv (left-distributive-mul-add-ℤ ny dx dy))
      ( inv (right-distributive-mul-add-ℤ nx ny dy))
```

File: src/real-numbers/rational-real-numbers.lagda.md [hunk 43]
```diff
@@ -0,0 +1,256 @@
...
+
+The type of [rationals](elementary-number-theory.rational-numbers.md) `ℚ`
+[embeds](foundation-core.embeddings.md) into the type of
+[Dedekind reals](real-numbers.dedekind-real-numbers.md) `ℝ`. We call numbers in
+the [image](foundation.images.md) of this embedding
+{{#concept "rational real numbers" Agda=Rational-ℝ}}.
+
+## Definitions
+
+### Strict inequality on rational gives Dedekind cuts
```
Comment (fredrik-bakke) [inline src/real-numbers/rational-real-numbers.lagda.md:49]:
```suggestion
### Strict inequality on rationals gives Dedekind cuts
```

File: src/real-numbers/rational-real-numbers.lagda.md [hunk 44]
```diff
@@ -0,0 +1,256 @@
...
+```agda
+module _
+  {l : Level} (x : ℝ l) (p : ℚ)
+  where
+
+  is-rational-ℝ-Prop : Prop l
+  is-rational-ℝ-Prop =
+    product-Prop
+      ( neg-Prop ( lower-cut-ℝ x p))
+      ( neg-Prop ( upper-cut-ℝ x p))
```
Comment (fredrik-bakke) [inline src/real-numbers/rational-real-numbers.lagda.md:114]:
```suggestion
      ( neg-Prop (lower-cut-ℝ x p))
      ( neg-Prop (upper-cut-ℝ x p))
```

File: src/real-numbers/rational-real-numbers.lagda.md [hunk 45]
```diff
@@ -0,0 +1,256 @@
...
+          ( λ I → elim-disjunction-Prop
+            ( lower-cut-ℝ x r)
+            ( upper-cut-ℝ x q)
+            ( lower-cut-ℝ x r)
+            ( id , λ H' → ex-falso (pr2 H H'))
+            ( is-located-lower-upper-cut-ℝ x r q I))
+          ( trichotomy-le-ℚ r q
+            ( λ I _ → I)
+            ( λ E H' → ex-falso ( pr1 ( tr ( is-rational-ℝ x) ( inv E) H) H'))
+            ( λ I H' → ex-falso ( pr1 H ( le-lower-cut-ℝ x q r I H'))))))
```
Comment (fredrik-bakke) [inline src/real-numbers/rational-real-numbers.lagda.md:215]:
```suggestion
            ( λ E H' → ex-falso (pr1 (tr (is-rational-ℝ x) (inv E) H) H'))
            ( λ I H' → ex-falso (pr1 H (le-lower-cut-ℝ x q r I H'))))))
```

File: src/elementary-number-theory/inequality-integers.lagda.md [hunk 46]
```diff
@@ -109,6 +111,47 @@ is-prop-le-ℤ : (x y : ℤ) → is-prop (le-ℤ x y)
...
+  map-coproduct
+    ( id)
+    ( is-positive-eq-ℤ ( distributive-neg-diff-ℤ y x))
+    ( decide-is-positive-is-nonzero-ℤ (y -ℤ x) (H ∘ inv ∘ eq-diff-ℤ))
+
+le-pred-ℤ : (x : ℤ) → le-ℤ (pred-ℤ x) x
+le-pred-ℤ x =
+  is-positive-eq-ℤ
+    ( inv
+      ( right-predecessor-law-diff-ℤ x x ∙ ap succ-ℤ ( is-zero-diff-ℤ' x)))
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/elementary-number-theory/inequality-integers.lagda.md:144]: We only add a space after an opening parenthesis when it appears at the start of a line. This is to help highlight the tree structure of constructions. When it appears in the middle of a line, like it does here, it doesn't help towards this goal, so we omit the extra space.

File: src/real-numbers/dedekind-real-numbers.lagda.md (hunk 33 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/real-numbers/dedekind-real-numbers.lagda.md]: Super!

**Comment by fredrik-bakke** [comment]
Apologies for having even more nitpick. Your PR is already really good, and it is immediately ready to be merged after my last comments have been resolved. Thank you so much again for your patience!

**Comment by fredrik-bakke** [comment]
By the way, we have a file where we record names of contributors. Currently, you're displayed as "malarbol", which is your GitHub display name. There is no pressure, but if you want to go by your given name, you can edit your display name in our file [`CONTRIBUTORS.toml`](https://github.com/UniMath/agda-unimath/blob/master/CONTRIBUTORS.toml).

**Comment by fredrik-bakke** [comment]
I recorded an issue (#1043) about refactoring elementary number theory with what I could think of on the top of my head now. Feel free to have a look and comment about additional issues you find/have found there :)

File: src/elementary-number-theory/inequality-rational-numbers.lagda.md (hunk 40 above)
Comment (malarbol) [reply src/elementary-number-theory/inequality-rational-numbers.lagda.md:294]: ok. I thought about it, but decided to go with the "proposition only". The result of the coproduct function is very specific of the choice I made. For exemple, had I written `decide-leq-le-ℚ` instead of `decide-le-leq-ℚ`, the equality case would we swapped. And I also thought that whatever use-case anybody would have of a function 
`decide-located-le-ℚ : (x y z : ℚ) → le-ℚ y z → le-ℚ y x + le-ℚ x z` would probably better be handled with `decide-le-leq-ℚ` (or, in the future, `decide-is-positive-is-nonpositive`, `decide-is-negative-is-nonnegative`, etc.) so it was actually a better idea to *not* have it in the library. 

I'm ok with keeping it, though. You are the maintainers, I'll go with whatever you decide.

**Comment by malarbol** [comment]
> Apologies for having even more nitpick. Your PR is already really good, and it is immediately ready to be merged after my last comments have been resolved. Thank you so much again for your patience!

Oh! on the contrary, think *you* for your patience ; I'm really sorry for all the indentation/parenthesis/etc. problems. I think I understand a bit better now, my next PR will be a lot cleaner, don't worry.

> By the way, we have a file where we record names of contributors. Currently, you're displayed as "malarbol", which is your GitHub display name. There is no pressure, but if you want to go by your given name, you can edit your display name in our file [CONTRIBUTORS.toml](https://github.com/UniMath/agda-unimath/blob/master/CONTRIBUTORS.toml).

I think I'll keep malarbol for the moment if you don't mind; I might add myself later, when I feel more confident or something.

> I recorded an issue (https://github.com/UniMath/agda-unimath/issues/1043) about refactoring elementary number theory with what I could think of on the top of my head now. Feel free to have a look and comment about additional issues you find/have found there :)

Cool! I do have a few ideas / comments / doubts so I'll definitely get in touch with you there to talk about it.

There are still two points to discuss before merging, the `skew-commutative-XXX` name and whether or not to keep the `decide-located-le-ℚ : (x y z : ℚ) → le-ℚ y z → le-ℚ y x + le-ℚ x z` function. Once you tell me what you decide, I'll push the last changes and you can merge whenever you want. 

Thank you again, for all, and see you for issue (https://github.com/UniMath/agda-unimath/issues/1043).

File: src/elementary-number-theory/inequality-rational-numbers.lagda.md (hunk 40 above)
Comment (fredrik-bakke) [reply src/elementary-number-theory/inequality-rational-numbers.lagda.md:294]: Ah, okay, that is a very reasonable objection, thanks for explaining your choice. Then we will keep it as it currently is!

File: src/elementary-number-theory/cross-multiplication-difference-integer-fractions.lagda.md (hunk 37 above)
Comment (fredrik-bakke) [reply src/elementary-number-theory/cross-multiplication-difference-integer-fractions.lagda.md:59]: Hmm, I think skew commutative is still a reasonable name. Commutativity is used in a transferred meaning in lots of contexts. And if we change our minds later, it's no big deal.

Comment (malarbol) [reply src/elementary-number-theory/cross-multiplication-difference-integer-fractions.lagda.md]: ok. I agree it's a good name.
